US06579872B1
N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-4-(6-chloropyrimidin-4-yloxy)benzamide
4,6-Dichloropyrimidine (0.103 g) was added to a stirred mixture of N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-4-hydroxybenzamide (0.3 g), caesium carbonate (0.453 g) and DMA (7.5 ml) and the resultant solution was stirred at ambient temperature for 18 hours. The mixture was poured into water (200 ml) and extracted with ethyl acetate. The organic phase was washed with water, dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and methanol as eluent. The material so obtained was triturated under diethyl ether. The resultant solid was isolated, washed with diethyl ether and dried under vacuum at 60° C. There was thus obtained the title compound (0.2 g); NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 3.2 (t, 4H), 3.74 (t, 4H), 7.12 (m, 1H), 7.23 (m, 1H), 7.41 (m, 6H), 7.58 (m, 1H), 7.82 (d , 3H); 8.06 (d, 2H), 8.67 (s, 1H), 9.93 (s, 1H), 10.12 (s, 1H); Mass Spectrum: M+H+ 544.

reactant | 4,6-Dichloropyrimidine | 0.103 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-4-hydroxybenzamide | 0.3 g | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC=C(C=C1)O)=O | C25H25N3O4
reactant | caesium carbonate | 0.453 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMA | 7.5 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 200 ml | O | H2O
product | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-4-(6-chloropyrimidin-4-yloxy)benzamide | 0.2 g | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC=C(C=C1)OC1=NC=NC(=C1)Cl)=O | C29H26ClN5O4
